US08912188B2
To a solution of 6-(tert-butoxycarbonylamino)pyridin-3-ylboronic acid (316.0 mg, 1.33 mmol) in dioxane (5 mL) was added methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (130.0 mg, 0.44 mmol), K3PO4 (280.0 mg, 1.33 mmol) and Pd(PPh3)4 (25.6 mg, 0.02 mmol) and three drops water. The reaction mixture was stirred for 1 h at 90° C. in an oil bath with an inert atmosphere of nitrogen and concentrated under vacuum to give a residue, which was purified by a silica gel column with 1% ethyl acetate in petroleum ether to afford methyl 2-(6-(tert-butoxycarbonylamino)pyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a light yellow solid (160 mg, 80%).

reactant | 6-(tert-butoxycarbonylamino)pyridin-3-ylboronic acid | 1.33 mmol, 316.0 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)B(O)O | C10H15BN2O4
reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.44 mmol, 130.0 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | K3PO4 | 1.33 mmol, 280.0 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | three drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 25.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(6-(tert-butoxycarbonylamino)pyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 160 mg, 80% | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C24H29N5O4
